US05972978
Example 8 Naphthalene-2-carboxylic acid [1,3,4]thiadiazol-2-yl amide
To a stirred solution of 2-amino-1,3,4-thiadiazol (0.84 g, 8.0 mmol) in pyridine (5 ml) was added 2-naphthoyl chloride (1.9 g, 10 mmol). The resulting mixture was stirred at reflux temperature for 15 min. cooled and quenched with water (100 ml). The precipitate was filtered off, washed with water (2×10 ml) and heptane (2×10 ml) and dried in vacuo affording 0.80 g (38%) of the title compound as a solid.

reactant | 2-amino-1,3,4-thiadiazol | 8.0 mmol, 0.84 g | NC=1SC=NN1 | C2H3N3S
reactant | 2-naphthoyl chloride | 10 mmol, 1.9 g | C1=C(C=CC2=CC=CC=C12)C(=O)Cl | C11H7ClO
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | Naphthalene-2-carboxylic acid [1,3,4]thiadiazol-2-yl amide | 0.80 g, 38% | S1C(=NN=C1)NC(=O)C1=CC2=CC=CC=C2C=C1 | C13H9N3OS
